US07919519B2
Methyl 1-(4-(5-benzyl-1H-indol-2-yl)-3-fluorobenzyl)azetidine-3-carboxylate
To a sealed flask was added 4-benzyl-2-iodobenzenamine (0.20 g, 0.65 mmol) and methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate (0.32 g, 1.3 mmol) in THF (15 mL). To this solution was added PdCl2(PPh3)2 (0.045 g, 0.065 mmol), CuI (0.025 g, 0.13 mmol), and ethyldiisopropylamine (0.90 mL, 5.2 mmol). The flask was flushed with Ar, sealed and placed in a preheated oil bath at 100° C. for 3 h. The mixture was concentrated under reduced pressure to afford a dark oil which was adsorbed onto silica and purified (30% EtOAc/hexanes to 100% EtOAc) to afford title compound as a yellow oil. MS (ESI) m/z: Calculated: 428.1; Observed: 429.1 (M++1).

reactant | 4-benzyl-2-iodobenzenamine | 0.65 mmol, 0.20 g | C(C1=CC=CC=C1)C1=CC(=C(C=C1)N)I | C13H12IN
reactant | methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate | 1.3 mmol, 0.32 g | C(#C)C1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C14H14FNO2
reactant | ethyldiisopropylamine | 5.2 mmol, 0.90 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(PPh3)2 | 0.065 mmol, 0.045 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.13 mmol, 0.025 g | [Cu]I
product | Methyl 1-(4-(5-benzyl-1H-indol-2-yl)-3-fluorobenzyl)azetidine-3-carboxylate | C(C1=CC=CC=C1)C=1C=C2C=C(NC2=CC1)C1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C27H25FN2O2
